US09029406B2
Under argon, 842 μL (2.1 mmol) 2.5 M n-butyllithium solution in hexane was added to a suspension of 986 mg (2.2 mmol) triphenyl-(2-phenylethyl)phosphonium bromide [can be synthesized, e.g., according to R. W. Hartmann, M. Reichert, Archiv der Pharmazie 333, 145 (2000); K. C. Nicolaou et al., European J. Chem. 1, 467 (1995)] in 125 mL THF at −78° C., and the mixture was then stirred for one hour at 0° C. The reaction mixture was then cooled back to −78° C. and a solution of 500 mg (2.0 mmol) tert-butyl-[(2S)-1-oxo-3-phenylpropan-2-yl]carbamate in 5 mL dry THF was added. The batch was heated to 0° C. and stirred further for three hours at this temperature. The reaction was then terminated by adding saturated aqueous ammonium chloride solution. The mixture was diluted with MTBE, the phases were separated, and the organic phase was dried over magnesium sulfate and concentrated in vacuo. The residue was purified over a silica gel column using cyclohexane/ethyl acetate 5:1 as the mobile phase. After concentrating the corresponding fractions, 173 mg (25.6% of the theoretical) of the Boc-protected intermediate, tert-butyl-[(2S,3Z)-1,5-diphenylpent-3-en-2-yl]carbamate was obtained.

reactant | n-butyllithium | 2.1 mmol, 2.5 M, 842 μL | C(CCC)[Li]
reactant | triphenyl-(2-phenylethyl)phosphonium bromide | 2.2 mmol, 986 mg | [Br-].C1(=CC=CC=C1)[P+](CCC1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | tert-butyl-[(2S)-1-oxo-3-phenylpropan-2-yl]carbamate | 2.0 mmol, 500 mg | C(C)(C)(C)OC(N[C@H](C=O)CC1=CC=CC=C1)=O | C14H19NO3
solvent | hexane | CCCCCC | C6H14
solvent | THF | 125 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | tert-butyl-[(2S,3Z)-1,5-diphenylpent-3-en-2-yl]carbamate | C(C)(C)(C)OC(N[C@@H](CC1=CC=CC=C1)\C=C/CC1=CC=CC=C1)=O | C22H27NO2
